US07645771B2
To a precooled (0° C.) solution of 4-[(4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)carbonyl]-benzene-sulfonamide (20 mg, 0.033 mmol) in dichloromethane (2 mL) was added acetyl bromide (4.2 mg, 0.034 mmol) and N,N-diisopropylethyl amine (12 μL, 0.66 mmol). The resulting mixture was stirred overnight at ambient temperature. After evaporation of the solvent, the crude product was purified by flash chromatography on silical gel, eluting with a gradient of 15-30% methanol in ethyl acetate to afford N-acetyl-4-[(4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)carbonyl]benzene-sulfonamide as amorphous solid (14 mg, 66%). 1H NMR (300 MHz, DMSO-d6) δ 7.83 (d, J=8.1 Hz, 2H), 7.48-7.46 (m, 3H), 7.37-7.33 (m, 5H), 7.21 (br, 1H), 7.13-7.05 (m, 2H), 4.51 (t, J=8.1, 1H), 3.88 (br, 1H), 3.67-3.15 (m, 6H), 2.42 (s, 3H), 2.37-2.30 (m, 2H), 2.11-2.07 (br, 2H), 1.96-1.72 (m, 13H), 1.59 (d, J=7.4, 2H). HRMS m/z (M+H)+ calcd: 654.3114, obsd: 654.3095.

reactant | 4-[(4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)carbonyl]-benzene-sulfonamide | 0.033 mmol, 20 mg | CC1=NC2=C(N1C1CC3CCC(C1)N3CCC3(CCN(CC3)C(=O)C3=CC=C(C=C3)S(=O)(=O)N)C3=CC=CC=C3)C=CC=C2 | C35H41N5O3S
reactant | acetyl bromide | 0.034 mmol, 4.2 mg | C(C)(=O)Br | C2H3BrO
reactant | N,N-diisopropylethyl amine | 0.66 mmol, 12 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-acetyl-4-[(4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)carbonyl]benzene-sulfonamide | 14 mg, 66% | C(C)(=O)NS(=O)(=O)C1=CC=C(C=C1)C(=O)N1CCC(CC1)(C1=CC=CC=C1)CCN1C2CC(CC1CC2)N2C(=NC1=C2C=CC=C1)C | C37H43N5O4S
